US05741819
Preparation of 3-[(Phenylsulfonyl)amino]-N-(4-aminobutyl)benzamide (29)
3-(Phenylsulfonyl)aminobenzoic acid as prepared in Example 9 (139 mg, 0.5 mmol), Castro's reagent (benzotriazole-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate) (221 mg, 0.5 mmol), tert-butyl 4-aminobutylaminocarboxylate (100 mg, 0.6 mmol) and triethylamine (0.2 mL) were mixed in dry DMF (5 mL) and stirred at room temperature for 3 hours. The mixture was dissolved in ethyl acetate (100 mL) and washed with saturated NaHCO3 (2×50 mL), brine (2×50 mL) and dried over Na2SO4. After evaporation of the solvent, the residue was mixed with 1:1 trifluoroacetic acid (TFA):CH2Cl2 (10 mL), stirred at room temperature for 2 hours and the solvent evaporated to give the title compound (140 mg, 81%) as the TFA salt. 1H-NMR (300 MHz, DMSO-d6): δ 1.17 (m, 4H), 2.79 (t, 2H), 3.23 (d, 2H), 7.23 (d, 1H), 7.30 (t, 1H), 7.57 (m, 5H), 7.60 (d, 2H), 8.50 (t, 1H). Mass spectrum (MALDI-TOF) calcd. for C17H21 N3O3S: 370.4 (M+Na), Found: 370.7.

reactant | 3-(Phenylsulfonyl)aminobenzoic acid | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C13H11NO4S
reactant | Castro's reagent | 0.5 mmol, 221 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 4-aminobutylaminocarboxylate | 0.6 mmol, 100 mg | NCCCCNC(=O)OC(C)(C)C | C9H20N2O2
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(Phenylsulfonyl)amino]-N-(4-aminobutyl)benzamide | 140 mg, 81% | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NCCCCN)C=CC1 | C17H21N3O3S
